US06620817B1
Preparation of 2-[5-chloro-6-phenyl-2-(4-trifluoromethylphenyl)-4-pyrimidinylamino]-N-cyclopropyl-N-methylacetamide:
N-Cyclopropyl-N-methyl-2-[6-phenyl-2-(4-trifluoromethyl-phenyl)-4-pyrimidinylamino]acetamide and N-chlorosuccinimide are treated in the same manner as in Example 1, and the resultant is recrystallized from ethanol to give the desired compound.

reactant | N-Cyclopropyl-N-methyl-2-[6-phenyl-2-(4-trifluoromethyl-phenyl)-4-pyrimidinylamino]acetamide | C1(CC1)N(C(CNC1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O)C | C23H21F3N4O
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 2-[5-chloro-6-phenyl-2-(4-trifluoromethylphenyl)-4-pyrimidinylamino]-N-cyclopropyl-N-methylacetamide | ClC=1C(=NC(=NC1C1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)NCC(=O)N(C)C1CC1 | C23H20ClF3N4O
